US03962341
A mixture of 200 parts of 3,3-dimethylacrolein and 600 parts of tetrahydrofuran is heated with 0.008 part of p-toluenesulfonic acid in an autoclave for three hours at a pressure of 50 atmospheres and a temperature of 210°C. The reaction product is worked up by distillation. 72.5 parts of piperitenone is obtained. The yield is 78% of theory at a conversion of 52%.

reactant | 3,3-dimethylacrolein | CC(=CC=O)C | C5H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | piperitenone | yield is 78% | CC1=CC(=O)C(=C(C)C)CC1 | C10H14O
